US06610730B2
Crude 7,7,7-trifluoro-4-oxo-heptanal (10 g, prepared above) in ethanol (100 ml) was treated with ammonium chloride (400 mmol, 21 g), then heated to reflux for 1 h. The resulting solution was diluted with ethyl acetate (300 ml) and washed with brine (2×50 ml). The organics were concentrated under reduced pressure. Purification of the residue by silica gel chromatography provided 1.3 g (21% overall from 4,4,4-trifluorobutyric acid) of 2-(3,3,3-trifluoro-propyl)-1H-pyrrole. 1H NMR (CDCl3) δ7.98 (1H, br s), 6.71 (1H, dd, J=4.1, 2.6), 6.15 (1H, dd, J=5.9, 2.8), 5.99-5.94 (1H, m), 2.92-2.85 (2H, m), 2.52-2.35 (2H, m).

reactant | 7,7,7-trifluoro-4-oxo-heptanal | 10 g | FC(CCC(CCC=O)=O)(F)F | C7H9F3O2
reactant | ammonium chloride | 400 mmol, 21 g | [Cl-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,3,3-trifluoro-propyl)-1H-pyrrole | 1.3 g, 21% | FC(CCC=1NC=CC1)(F)F | C7H8F3N
